US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4-pyridyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.25 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.02 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 4-pyridylboronic acid (0.153 g) in ethanol (1 ml). The mixture was heated under reflux for 12 hours, then left at room temperature overnight and then poured into ether (25 ml) and water (25 ml). The organic layer was separated, dried (MgSO4) and evaporated. The residue was taken up the minimum amount of ethyl acetate and purified by chromatography on silica gel (20 g) eluted with dichloromethane:methanol (100:1). Combination and evaporation of suitable fractions followed by recrystallisation from ether/hexane/dichloromethane gave the title compound as a white solid, m.p. 266-8° C. (decomp.).

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.25 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 4-pyridylboronic acid | 0.153 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4-pyridyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC=NC=C1 | C16H8Cl2F3N5
